US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
4-(4-Methoxybenzylsulfanylmethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 100 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 80 mg of potassium carbonate, and 80 μL of 4-methoxy-α-toluenethiol reacted to give 19 mg of the title compound as an oil.

reactant | 4-(4-Methoxybenzylsulfanylmethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 100 mg | COC1=CC=C(CSCC2=CC(NC3=CC=C(C=C23)C2=C(C=CC=C2)OC)(C)C)C=C1 | C27H29NO2S
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 80 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 4-methoxy-α-toluenethiol | 80 μL | COC1=CC=C(C=C1)CS | C8H10OS
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 19 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
